US07585858B2
4-(4-(3,3-diphenyl-2-propenyl)-1-piperazinyl)benzonitrile
A suspension of 4-piperazin-1-ylbenzonitrile hydrochloride (1.30 g, 5.00 mmol) and 3,3-diphenylacrylaldehyde (1.56 g, 7.50 mmol)) in dichloromethane (10 mL) and methanol (10 mL) was neutralized to pH 5 with diisopropylethylamine, treated with polymer-supported cyanoborohydride (2.47 mmol/g, 6 g, 14.82 mmol), shaken at room temperature for 24 hours, and filtered. The resin was washed with 1:1 dichloromethane/methanol (10 mL×3) and the combined filtrates were concentrated. The concentrate was purified by silica gel chromatography eluting with a gradient from 10%-50% ethyl acetate/hexanes to provide the desired product (1.60 g, 84%). MS (CI) m/e 380 (M+H)+.

reactant | 4-piperazin-1-ylbenzonitrile hydrochloride | 5.00 mmol, 1.30 g | Cl.N1(CCNCC1)C1=CC=C(C#N)C=C1
reactant | 3,3-diphenylacrylaldehyde | 7.50 mmol, 1.56 g | C1(=CC=CC=C1)C(=CC=O)C1=CC=CC=C1 | C15H12O
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyanoborohydride | 14.82 mmol, 6 g | C(#N)[BH3-]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | 4-(4-(3,3-diphenyl-2-propenyl)-1-piperazinyl)benzonitrile | 1.60 g, 84% | C1(=CC=CC=C1)C(=CCN1CCN(CC1)C1=CC=C(C#N)C=C1)C1=CC=CC=C1 | C26H25N3
